US08314088B2
3-chloro-5-[2-(methoxymethyl)pyrrolidin-1-yl]pyrazine-2-carbaldehyde
Phosphoryl chloride (1.2 mL) was added dropwise to DMF (10 mL) at 0° C., and the mixture was stirred for 20 min. To the reaction mixture was added a solution of 2-chloro-6-[2-(methoxymethyl)pyrrolidin-1-yl]pyrazine (1.45 g) in DMF (3 mL), and the mixture was stirred at 50° C. for 16 hr. Water was added to the reaction mixture, and the mixture was stirred for 2 hr, and extracted with ethyl acetate. The extract was washed with water and saturated brine and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (solvent gradient: 5→50% ethyl acetate/hexane) to give the title compound (1.04 g, 64%).

reactant | Phosphoryl chloride | 1.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-chloro-6-[2-(methoxymethyl)pyrrolidin-1-yl]pyrazine | 1.45 g | ClC1=NC(=CN=C1)N1C(CCC1)COC | C10H14ClN3O
reactant | Water | O | H2O
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-chloro-5-[2-(methoxymethyl)pyrrolidin-1-yl]pyrazine-2-carbaldehyde | 1.04 g, 64% | ClC=1C(=NC=C(N1)N1C(CCC1)COC)C=O | C11H14ClN3O2
